US06034087
Preparation of trimethylsilyl-2-amino-6-chloropurine
To hexamethyldisilazane (8 ml), 2-amino-6-chloropurine (0.25 g), ammonium sulfate (catalytic amount) and trimethylsilyl chloride (catalytic amount) were added, and the mixture was stirred under reflux for 4 hours. When the mixture becomes clear solution, hexamethyldisilazane was distilled off under reduced pressure to obtain the desired product as pale brown oil.

reactant | hexamethyldisilazane | 8 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | 2-amino-6-chloropurine | 0.25 g | NC1=NC(=C2NC=NC2=N1)Cl | C5H4ClN5
reactant | ammonium sulfate | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
reactant | trimethylsilyl chloride | C[Si](C)(C)Cl | C3H9ClSi
product | trimethylsilyl-2-amino-6-chloropurine | C[Si](C)(C)C1=NC2=NC(=NC(=C2N1)Cl)N | C8H12ClN5Si
